US07015218B1
3′-Bromo-4′-isobutylacetophenone (182 g) and copper cyanide (95.7 g) were stirred in dimethylformamide (520 ml) at 140° C. for 7 h. The reaction mixture was cooled to room temperature and the solid was filtered off. To the filtrate was added water and the mixture was extracted with toluene. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, after which the solvent was evaporated under reduced pressure. The residue was recrystallized from n-hexane to give 3′-cyano-4′-isobutylacetophenone (70 g), melting point: 71–72° C.

reactant | 3′-Bromo-4′-isobutylacetophenone | 182 g | BrC=1C=C(C=CC1CC(C)C)C(C)=O | C12H15BrO
reactant | copper cyanide | 95.7 g | [Cu](C#N)C#N
solvent | dimethylformamide | 520 ml | CN(C=O)C | C3H7NO
product | 3′-cyano-4′-isobutylacetophenone | 70 g | C(#N)C=1C=C(C=CC1CC(C)C)C(C)=O | C13H15NO
